US05529999
A suspension of 2,3-dihydrobenzofuran-5-sulfonamide (19.9 g, 100 mmol) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (56.7 g, 250 mmol) in dioxane (500 ml) was heated at reflux under nitrogen for 111 hours. The reaction mixture was reduced in volume by evaporation under vacuum and purified by silica gel flash chromatography (EtOAc/hexanes) to provide benzofuran-5-sulfonamide (3.5 g, 18% ) . This was combined with another lot of benzofuran-5-sulfonamide (1.0 g), slurried in ether, collected and vacuum dried at 45° C. overnight to give 4.5 g of benzofuran-5-sulfonamide.

reactant | 2,3-dihydrobenzofuran-5-sulfonamide | 100 mmol, 19.9 g | O1CCC2=C1C=CC(=C2)S(=O)(=O)N | C8H9NO3S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 250 mmol, 56.7 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | benzofuran-5-sulfonamide | 3.5 g, 18% | O1C=CC2=C1C=CC(=C2)S(=O)(=O)N | C8H7NO3S
